US04303655
To dimethylformamide (2.25 g.) was dropwise added phosphorus oxychloride (2.36 g.) under stirring and ice-cooling, and the mixture was stirred for 30 minutes at 40° C. To the mixture was added ethyl acetate (50 ml.), and the mixture was cooled to -20° C. To the mixture was gradually added 2-(2-tert-pentyloxycarbonylamino-1,3-thiazol-4-yl)glyoxylic acid, which can be represented as 2-(2-tert-pentyloxycarbonylimino-2,3-dihydro-1,3-thiazol-4-yl)glyoxylic acid, (4.00 g.) over about 5 minutes at -20° to -10° C. with stirring, and the mixture was further stirred for 40 minutes at the same temperature. Thus obtained mixture was dropwise added to the solution, which was prepared by stirring the mixture of 3-(5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl-7-amino-3-cephem-4-carboxylic acid (5.30 g.) and bis(trimethylsilyl)acetamide (15.4 ml.) in ethyl acetate (100 ml.) for 30 minutes at room temperature and then by cooling to -40° C. The mixture was stirred for 40 minutes at the same temperature and further stirred for 30 minutes at -5° to 0° C. The reaction mixture was poured into 5% sodium bicarbonate aqueous solution, and the aqueous layer was separated. The remaining ethyl acetate layer was extracted twice with 5% sodium bicarbonate aqueous solution (40 ml). Thus obtained aqueous layers were combined together and washed with ethyl acetate (50 ml.). To the aqueous solution was added ethyl acetate (100 ml.), and pH value of the aqueous portion of the mixture was adjusted to 2 with 10% hydrochloric acid under ice-cooling and stirring. After filtration of the mixture, the ethyl acetate layer was separated. The remaining aqueous layer was extracted twice with ethyl acetate (60 ml.). Thus obtained ethyl acetate layers were combined together, washed with a saturated aqueous solution of sodium chloride and water in turn and then dried over magnesium sulfate. After distillation of the solvent, the remaining residue was pulverized in diethyl ether, collected by filtration, washed with diethyl ether and then dried to give 3-(5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl-7-[2-(2-tert-pentyloxycarbonylamino-1,3-thiazol-4-yl)glyoxylamido]-3-cephem-4-carboxylic acid, which can be represented as 3-(5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl-7-[2-(2-tert-pentyloxycarbonylimino-2,3-dihydro-1,3-thiazol-4-yl)glyoxylamido]-3-cephem-4-carboxylic acid, (3.79 g.).

reactant | phosphorus oxychloride | 2.36 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-(2-tert-pentyloxycarbonylamino-1,3-thiazol-4-yl)glyoxylic acid | C(C)(C)(CC)OC(=O)NC=1SC=C(N1)C(C(=O)O)=O | C11H14N2O5S
reactant | 2-(2-tert-pentyloxycarbonylimino-2,3-dihydro-1,3-thiazol-4-yl)glyoxylic acid | C(C)(C)(CC)OC(=O)N=C1SC=C(N1)C(C(=O)O)=O | C11H14N2O5S
reactant | 3-(5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl-7-amino-3-cephem-4-carboxylic acid | 5.30 g | CC1=NN=C(S1)SCC=1CS[C@H]2N(C1C(=O)O)C(C2N)=O | C11H12N4O3S3
reactant | bis(trimethylsilyl)acetamide | 15.4 ml | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 2.25 g | CN(C=O)C | C3H7NO
product | 3-(5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl-7-[2-(2-tert-pentyloxycarbonylamino-1,3-thiazol-4-yl)glyoxylamido]-3-cephem-4-carboxylic acid | CC1=NN=C(S1)SCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(=O)C=2N=C(SC2)NC(=O)OC(C)(C)CC)=O)=O | C22H24N6O7S4
